US06121322
Diethyl 2-amino-6-[(2-hydroxy-3-methoxy-propoxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate
In an analogous manner to that described in Example 1, from diethyl 2-amino-6-[(hydroxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate sodium and 2-methoxymethyl-oxirane the title compound is obtained in 15% yield as a wax.

reactant | diethyl 2-amino-6-[(hydroxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate sodium | [Na].NC1=C(C2=CC=C(C=CC2=C1C(=O)OCC)CC(NO)=O)C(=O)OCC
reactant | 2-methoxymethyl-oxirane | COCC1OC1 | C4H8O2
product | Diethyl 2-amino-6-[(2-hydroxy-3-methoxy-propoxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate | 15% yield | NC1=C(C2=CC=C(C=CC2=C1C(=O)OCC)CC(NOCC(COC)O)=O)C(=O)OCC | C22H28N2O8
